US07122543B2
N-[4-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-pyridyl)benzoyl]piperidine
N-[4-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoyl]piperidine (70 mg, 0.1428 mmol) was dissolved in a mixed solvent of acetonitrile (6 ml) and water (2 ml), then CAN (231 mg, 0.4293 mmol) was added thereto at room temperature and the mixture was stirred for 3 hours. The reaction solution was poured into water and extracted with ethyl acetate. The extract was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by preparative thin layer chromatography (methylene chloride:methanol=95:5) to give the title compound (26 mg, 0.0565 mmol, 40%).

reactant | N-[4-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoyl]piperidine | 0.1428 mmol, 70 mg | COC=1C(=C(CC2=CC(=C(C(=O)N3CCCCC3)C=C2)C=2C=NC=CC2)C(=C(C1OC)OC)OC)C | C29H34N2O5
reactant | CAN | 0.4293 mmol, 231 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
solvent | water | 2 ml | O | H2O
product | N-[4-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-pyridyl)benzoyl]piperidine | 0.0565 mmol, 26 mg, 40% | COC=1C(C(=C(C(C1OC)=O)CC1=CC(=C(C(=O)N2CCCCC2)C=C1)C=1C=NC=CC1)C)=O | C27H28N2O5
